US07517902B2
A solution of 1.72 g of 6-(4-aminophenyl)-3-[(thiophen-3-yl)carbonylamino]-1H-indazole hydrochloride and 0.65 mL of triethylamine in 70 mL of tetrahydrofuran is admixed slowly under an argon atmosphere with 0.67 mL of 2-fluoro-5-trifluoromethylphenyl isocyanate. The reaction mixture is stirred at 24° C. for 3.5 hours and then concentrated under reduced pressure. The residue is purified by flash chromatography on a silica column (60; 35-70 μM), eluting with a dichloromethane/methanol (97/3 by volume) mixture, to give 0.4 g of 1-(4-{3-[(thiophen-3-yl)carbonylamino]-1H-indazol-6-yl}phenyl)-3-(2-fluoro-5-trifluoromethylphenyl)urea, whose characteristics are as follows:

reactant | 6-(4-aminophenyl)-3-[(thiophen-3-yl)carbonylamino]-1H-indazole hydrochloride | 1.72 g | Cl.NC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)NC(=O)C1=CSC=C1
reactant | triethylamine | 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 0.67 mL | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 1-(4-{3-[(thiophen-3-yl)carbonylamino]-1H-indazol-6-yl}phenyl)-3-(2-fluoro-5-trifluoromethylphenyl)urea | 0.4 g | S1C=C(C=C1)C(=O)NC1=NNC2=CC(=CC=C12)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C26H17F4N5O2S
